USRE036477
Methyl 4-[3,5-Bis(trimethylsilyl)phenylcarboxy]benzoate
To a suspension of 665 mg (2.5 mmol) of 3,5-bis(trimethylsilyl)benzoic acid and 670 mg of potassium carbonate in dry benzene were added 0.40 ml (5.5 mmol) of thionyl chloride and 0.21 ml (2.75 mmol) of N,N-dimethylformamide at room temperature with stirring. The mixture was stirred at room temperature for 3 hours. The insoluble matter was filtered off and the filtrate was evaporated. The residue was dissolved in 17.5 ml of dry tetrahydrofuran and 0.77 ml (5.5 mmol) of triethylamine and 418 mg (2.75 mmol) of methyl p-hydroxybenzoate were added to the solution. The mixture was stirred at room temperature for 1 day. The reaction mixture was made weakly acid with hydrochloric acid and extracted with methylene chloride. The extract was successively washed with water and sat.aq.NaCl, dried over anhyd.Na2SO4 and evaporated.

reactant | 3,5-bis(trimethylsilyl)benzoic acid | 2.5 mmol, 665 mg | C[Si](C=1C=C(C(=O)O)C=C(C1)[Si](C)(C)C)(C)C | C13H22O2Si2
reactant | potassium carbonate | 670 mg | C([O-])([O-])=O.[K+].[K+]
reactant | thionyl chloride | 5.5 mmol, 0.40 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 2.75 mmol, 0.21 ml | CN(C=O)C | C3H7NO
reactant | triethylamine | 5.5 mmol, 0.77 ml | C(C)N(CC)CC | C6H15N
reactant | methyl p-hydroxybenzoate | 2.75 mmol, 418 mg | COC(=O)C=1C=CC(=CC1)O | C8H8O3
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Methyl 4-[3,5-Bis(trimethylsilyl)phenylcarboxy]benzoate | C[Si](C=1C=C(C=C(C1)[Si](C)(C)C)OC(=O)C1=CC=C(C(=O)OC)C=C1)(C)C | C21H28O4Si2
